US07541478B2
Sodium(2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate
A mixture of (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid acetone solvate (1.13 g) and acetone (20.5 ml) was heated to 50° C., and 2N NaOH (0.91 ml) was added dropwise thereto with stirring. The mixture was stirred at 50° C. for 2 hours and then at 5° C. for 1 hour, and crystals precipitated were collected by filtration. The crystals were washed successively with cold acetone/water (95/5, 2 ml) and cold acetone (2 ml) to obtain the title compound (0.974 g, yield 91.9%).

reactant | (2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylic acid acetone | 1.13 g | CC(=O)C.ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)O)C
reactant | NaOH | 2N, 0.91 ml | [OH-].[Na+]
solvent | acetone | 20.5 ml | CC(=O)C | C3H6O
product | Sodium(2E)-3-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}acrylate | 0.974 g, yield 91.9% | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)/C=C/C(=O)[O-])C.[Na+] | InChI=1S/C28H18ClF4NO5.Na/c1-14-9-18-23(13-21(14)29)39-27(38)19(26(18)16-4-2-3-15(10-16)5-8-25(36)37)12-24(35)34-22-7-6-17(30)11-20(22)28(31,32)33;/h2-11,13H,12H2,1H3,(H,34,35)(H,36,37);/q;+1/p-1/b8-5+;
